US06831080B2
Step B: (S)-3-Phenyl-N-[1-(3-hydroxyphenyl)ethyl]acrylamide
To a solution of (S)-3-phenyl-N-[1-(3-methoxyphenyl)ethyl]acrylamide (100 mg) in CH2Cl2 (0.5 mL) at −78° C. was added boron tribromide (1.0 M solution in CH2Cl2, 2.14 mL). The resulting solution was warmed to room temperature and stirred at room temperature for 3 hours. Water was added, and the mixture was extracted with CH2Cl2 (three times). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to provide the title compound.

reactant | (S)-3-phenyl-N-[1-(3-methoxyphenyl)ethyl]acrylamide | 100 mg | C1(=CC=CC=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)OC | C18H19NO2
reactant | boron tribromide | 1.0 M, 2.14 mL | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-Phenyl-N-[1-(3-hydroxyphenyl)ethyl]acrylamide | C1(=CC=CC=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)O | C17H17NO2
